data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
5065,5753,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]#[N+:16][C-:17]([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])=[N:16][C:17]2([c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1)[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,20.85560047330473,-30.926309411678115
2069,2296,[CH2:18]=[N+:19]([CH3:20])[C-:21]([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1.[CH3:1][C:2](=[O:3])[C:4]([C:5]([CH3:6])=[O:7])=[C:8]([C:9]([CH3:10])=[O:11])[c:12]1[cH:13][cH:14][cH:15][cH:16][cH:17]1>>[CH3:1][C:2](=[O:3])[C:4]1([C:5]([CH3:6])=[O:7])[C:8]([C:9]([CH3:10])=[O:11])([c:12]2[cH:13][cH:14][cH:15][cH:16][cH:17]2)[CH2:18][N:19]([CH3:20])[C:21]1([C:22](=[O:23])[O:24][CH3:25])[c:26]1[cH:27][cH:28][cH:29][cH:30][cH:31]1,water,298.15,15.694386049340473,-6.704782164247607
3015,3367,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8]#[N+:9][N-:10][C:11]([CH3:12])=[O:13]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:10]([C:11]([CH3:12])=[O:13])[N:9]=[C:8]1[CH3:7],water,298.15,23.716546490660697,-34.5927903220499
820,889,[CH3:12][C:13](=[O:14])[c:15]1[nH+:16][c-:17]([C:18]([CH3:19])=[O:20])[c:21](=[O:22])[o:23]1.[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]12[CH:6]([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]1([C:13]([CH3:12])=[O:14])[NH:16][C:17]2([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23]1,water,298.15,27.07989019272873,5.246785859944799
937,1016,[CH3:10][O:11][C:12](=[O:13])[C-:14]([N+:15]#[C:16][C:17]#[N:18])[C:19](=[O:20])[O:21][CH3:22].[CH3:1][O:2][C:3]([Cl:4])=[C:5]([O:6][CH3:7])[O:8][CH3:9]>>[CH3:1][O:2][C:3]1([Cl:4])[C:5]([O:6][CH3:7])([O:8][CH3:9])[C:14]([C:12]([O:11][CH3:10])=[O:13])([C:19](=[O:20])[O:21][CH3:22])[N:15]=[C:16]1[C:17]#[N:18],water,298.15,8.779773740752772,-32.371999150869854
4600,5246,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH2:15]=[N+:16]([CH3:17])[C-:18]([C:19]#[N:20])[C:21](=[O:22])[O:23][CH3:24]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:19]#[N:20])([C:21](=[O:22])[O:23][CH3:24])[N:16]([CH3:17])[CH2:15]2,water,298.15,16.044943528109854,-4.586103637420862
2084,2312,[CH3:15][O:16][C:17](=[O:18])[C-:19]([O+:20]=[C:21]([C:22]#[N:23])[C:24]#[N:25])[C:26]([CH3:27])=[O:28].[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]#[C:7][C:8]([F:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[N:1]#[C:2][C:3]1([C:4]#[N:5])[C:6]2=[C:7]([C:8]([F:9])([Br:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]([C:17]([O:16][CH3:15])=[O:18])([C:26]([CH3:27])=[O:28])[O:20][C:21]2([C:22]#[N:23])[C:24]#[N:25],water,298.15,10.759358378539462,-62.58939908321664
4939,5625,[CH3:9][C:10](=[O:11])[C:12]([C:13]#[N:14])=[O+:15][C-:16]([c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1)[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:16]([c:17]2[cH:18][cH:19][cH:20][cH:21][cH:22]2)([c:23]2[cH:24][cH:25][cH:26][cH:27][cH:28]2)[O:15][C:12]1([C:10]([CH3:9])=[O:11])[C:13]#[N:14],water,298.15,26.55070580341637,-23.636554833599487
854,924,[CH3:12][N-:13][N+:14]([CH3:15])=[C:16]([C:17]#[N:18])[c:19]1[cH:20][cH:21][cH:22][cH:23][cH:24]1.[F:1][C:2]([F:3])=[C:4]([F:5])[c:6]1[cH:7][cH:8][cH:9][cH:10][cH:11]1>>[F:1][C:2]1([F:3])[C:4]([F:5])([c:6]2[cH:7][cH:8][cH:9][cH:10][cH:11]2)[C:16]([C:17]#[N:18])([c:19]2[cH:20][cH:21][cH:22][cH:23][cH:24]2)[N:14]([CH3:15])[N:13]1[CH3:12],water,298.15,18.030898397927448,-21.63139153490692
3997,4573,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[C-:9]([C:10](=[O:11])[NH:12][CH3:13])[N+:14]([CH3:15])=[CH:16][C:17](=[O:18])[O:19][CH3:20]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[C:9]([C:7]([NH:6][CH3:5])=[O:8])([C:10](=[O:11])[NH:12][CH3:13])[N:14]([CH3:15])[CH:16]1[C:17](=[O:18])[O:19][CH3:20],water,298.15,27.36743378971753,-34.82338200502428
4617,5263,[CH3:9][NH:10][C:11](=[O:12])[C-:13]([NH+:14]=[C:15]([CH3:16])[C:17](=[O:18])[O:19][CH3:20])[C:21](=[O:22])[O:23][CH3:24].[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:13]([C:11]([NH:10][CH3:9])=[O:12])([C:21](=[O:22])[O:23][CH3:24])[NH:14][C:15]1([CH3:16])[C:17](=[O:18])[O:19][CH3:20],water,298.15,24.52586680110937,-18.16225343044091
170,187,[CH3:12][CH:13]=[NH+:14][CH-:15][C:16]([CH3:17])=[O:18].[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3]1=[C:4]([C:5]#[N:6])[CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[CH:13]([CH3:12])[NH:14][CH:15]3[C:16]([CH3:17])=[O:18],water,298.15,13.412140687713665,-36.71060927742612
